US07989461B2
3-Iodo-4-methyl-2-nitrobenzoic acid (46.00 g, 150 mmol) was suspended in ethanol (500 mL) and acetic acid (86 mL, 1498 mmol). The mixture was heated to 70° C. and iron (33 g, 599 mmol) was added in small portions. Stirring was continued for 3 h, and then the reaction was cooled down to RT and poured on 1.5 kg of crushed ice and 1 L of 5 N aqueous HCl. The mixture was extracted with ethyl acetate and the organic layer was dried with sodium sulfate, concentrated under vacuum and dried to give 2-amino-3-iodo-4-methylbenzoic acid (40 g, 96%) as a tan solid. MS (M+H)+ 278

reactant | 3-Iodo-4-methyl-2-nitrobenzoic acid | 150 mmol, 46.00 g | IC=1C(=C(C(=O)O)C=CC1C)[N+](=O)[O-] | C8H6INO4
reactant | acetic acid | 1498 mmol, 86 mL | C(C)(=O)O | C2H4O2
reactant | HCl | 5 N, 1 L | Cl | ClH
solvent | ethanol | 500 mL | C(C)O | C2H6O
catalyst | iron | 599 mmol, 33 g | [Fe] | Fe
product | 2-amino-3-iodo-4-methylbenzoic acid | 40 g, 96% | NC1=C(C(=O)O)C=CC(=C1I)C | C8H8INO2
